US05530119
1,1'-ethylenedipiperazine (1.98 g, 10 mmol) is dissolved in 20 mL of dioxane:water (1:1) mixture and 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (2.46 g, 10 mmol) is added. The mixture is then stirred until no starting material is detected on thin layer chromatography. The obtained mixture is fractionally separated by silica gel chromatography, followed by RP-HPLC to obtain N-[4-tert-butoxycarbonylpiperazino]ethyl-piperazine. Following the procedure of Example 6, but replacing 1-benzylpiperazine with N-[4-tert-butoxycarbonylpiperazino]ethyl-piperazine, provides the desired compound. The product of Example 3 (2.1 g, 2.03 mmol), N-[4-tert-butoxycarbonylpiperazino]ethyl-piperazine (1.817 g, 6.09 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride are used. The obtained product (1.0 g) is treated with 48%-HF (4 mL) in 35 mL of acetonitrile in the procedure described in Example 5, followed by a carefully deprotection of N-tert-butoxycarbonyl group with 10% trifluoroacetic acid to obtain the pure title compound.

reactant | 1,1'-ethylenedipiperazine | 10 mmol, 1.98 g | C(CN1CCNCC1)N1CCNCC1 | C10H22N4
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 10 mmol, 2.46 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane water | 20 mL | O1CCOCC1.O
product | N-[4-tert-butoxycarbonylpiperazino]ethyl-piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1CCNCC1 | C15H30N4O2
